US07115611B2
D] 5-Chloromethyl-4-cyclopropyl-2-(4-trifluoromethoxy-phenyl)-pyrimidine
In analogy to the procedure described in example 113H], [4-cyclopropyl-2-(4-trifluoromethoxy-phenyl)-pyrimidin-5-yl]-methanol and thionylchloride gave the title compound as a light brown solid.

reactant | [4-cyclopropyl-2-(4-trifluoromethoxy-phenyl)-pyrimidin-5-yl]-methanol | C1(CC1)C1=NC(=NC=C1CO)C1=CC=C(C=C1)OC(F)(F)F | C15H13F3N2O2
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
product | 5-Chloromethyl-4-cyclopropyl-2-(4-trifluoromethoxy-phenyl)-pyrimidine | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)OC(F)(F)F)C1CC1 | C15H12ClF3N2O
